US04139617
Substituting 3-t-butyldimethylsiloxy-19-hydroxy-5-androsten-17-one acetate and 19-hydroxy-3β-(4'-tetrahydropyranyloxy)-5-androsten-17-one acetate for the 19-hydroxy-3β-(2'-tetrahydropyranyloxy)-5-androsten-17-one, acetate above results in the preparation of 3-t-butyldimethylsiloxy-5-androsten-17β,19-diol and 3β-(4'-tetrahydropyranyloxy)-5-androstene-17β,19-diol, respectively.

reactant | 3-t-butyldimethylsiloxy-19-hydroxy-5-androsten-17-one acetate | C(C)(=O)O.O([Si](C)(C)C(C)(C)C)C1CC2=CC[C@H]3[C@@H]4CCC([C@@]4(C)CC[C@@H]3[C@]2(CC1)CO)=O
reactant | acetate | C(C)(=O)[O-]
product | 3-t-butyldimethylsiloxy-5-androsten-17β,19-diol | O([Si](C)(C)C(C)(C)C)C1CC2=CC[C@H]3[C@@H]4CC[C@@H]([C@@]4(C)CC[C@@H]3[C@]2(CC1)CO)O | C25H44O3Si
